US04959361
Potassium tert.-butoxide, 4.94 g (0.044 mol), was added to a solution of 6.92 g (0.04 mol) of rac-2a,3,4,5-tetrahydro-benz[cd]indol-2(1H)-one in 50 ml of dimethylformamide. After stirring for 15 minutes under nitrogen, 5.23 g or 3.9 ml of propargyl bromide was added and stirring was continued for 30 minutes. The mixture was diluted with water and ice and the precipitate was collected by filtration, washed with water and sucked dry. The solids were dissolved in methylene chloride and the solution was dried and evaporated. Crystallization of the residue from ethyl acetate gave crude product of rac-2a,3,4,5-tetrahydro-2a-(2-propynyl)benz[cd]indol-2(1H)-one with m.p. 174-177° which was recrystallized from ethyl acetate to melt at 177°-180°.

reactant | Potassium tert.-butoxide | CC(C)([O-])C.[K+]
reactant | rac-2a,3,4,5-tetrahydro-benz[cd]indol-2(1H)-one | 0.04 mol, 6.92 g | N1C(C2C=3C(=CC=CC13)CCC2)=O | C11H11NO
reactant | propargyl bromide | 3.9 ml | C(C#C)Br | C3H3Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | rac-2a,3,4,5-tetrahydro-2a-(2-propynyl)benz[cd]indol-2(1H)-one | C(C#C)C12C(NC=3C=CC=C(C13)CCC2)=O | C14H13NO
